US07101880B2
Synthesis of thiophene-2-carbothioic acid(2,2,2-trifluoroethyl)amide
To thiophene-2-carboxylic acid(2,2,2-trifluoroethyl)amide (2.8 g, 13.28 mmol, 1.0 equiv.) in toluene (100 mL) was added Lawesson's reagent (2.71 g, 6.69 mmol, 0.5 equiv.) The solution was stirred at 100° C. for 3 h. The solvent was removed in vacuo and the resulting residue was purified by flash chromatography (5% EtOAc/hexanes as eluent) to afford the title compound (1.4 g) as a yellow solid. MS=225.9 (M+1).

reactant | thiophene-2-carboxylic acid(2,2,2-trifluoroethyl)amide | 13.28 mmol, 2.8 g, 1.0 equiv. | FC(CNC(=O)C=1SC=CC1)(F)F | C7H6F3NOS
reactant | Lawesson's reagent | 6.69 mmol, 2.71 g, 0.5 equiv. | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | thiophene-2-carbothioic acid(2,2,2-trifluoroethyl)amide | 1.4 g | FC(CNC(=S)C=1SC=CC1)(F)F | C7H6F3NS2
